US07645784B2
B. 2-{[2-Nitro-6-(propylsulfonyl)phenyl]amino}ethanol
The compound was synthesized in 99% yield according to the procedure described for the synthesis of (7-dimethylsulfamoyl-benzoimidazol-1-yl)-acetic acid, part B, starting from 2-chloro-1-nitro-3-(propylsulfonyl)benzene. MS (ESI) m/z 289 [M+H]. 1H NMR (400 MHz, CDCl3) δ ppm 1.02 (t, J=7.4 Hz, 3H), 1.80-1.70 (m, 3H), 3.13-3.09 (m, 2H), 3.27-3.23 (m, 2H), 3.87-3.84 (m, 2H), 6.88 (t, J=8.0 Hz, 1H), 6.95 (broad s, 1H), 7.91 (dd, J=8.1, 1.5 Hz, 1H), 7.99 (dd, J=7.8, 1.8 Hz, 1H).

reactant | (7-dimethylsulfamoyl-benzoimidazol-1-yl)-acetic acid | CN(S(=O)(=O)C1=CC=CC2=C1N(C=N2)CC(=O)O)C | C11H13N3O4S
reactant | 2-chloro-1-nitro-3-(propylsulfonyl)benzene | ClC1=C(C=CC=C1S(=O)(=O)CCC)[N+](=O)[O-] | C9H10ClNO4S
product | 2-{[2-Nitro-6-(propylsulfonyl)phenyl]amino}ethanol | 99% yield | [N+](=O)([O-])C1=C(C(=CC=C1)S(=O)(=O)CCC)NCCO | C11H16N2O5S
